US07129232B2
To a solution of tert-butyl (3S)-3-({[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]carbonyl}amino)-1-pyrrolidinecarboxylate (1.8 g) and N-ethyldiisopropylamine (720 mg) in chloroform (50 ml) was added trityl chloride (1.6 g), and the mixture was stirred at room temperature for 28 hours. The reaction mixture was washed successively with 10% aqueous citric acid solution, brine and saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with 3% methanol/chloroform to give tert-butyl (3S)-3-[({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]-1-pyrrolidinecarboxylate (1.7 g) as a solid.

reactant | tert-butyl (3S)-3-({[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]carbonyl}amino)-1-pyrrolidinecarboxylate | 1.8 g | NC1=C(C=NN1C)NC(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C14H24N6O3
reactant | N-ethyldiisopropylamine | 720 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | trityl chloride | 1.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl (3S)-3-[({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]-1-pyrrolidinecarboxylate | 1.7 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C33H38N6O3
